US05560866
12.0 g of potassium t-butoxide was added to a mixture of 47.0 g of 3,4-difluorobenzyltriphenylphosphonium bromide and 200 ml of tetrahydrofuran (hereinafter referred to as THF) to obtain an orange-colored ylide solution. 50 ml of a THF solution of 35.0 g of 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde was added to the solution, followed by agitation at room temperature for 2 hours. Thereafter, the reaction solution was poured into iced water and extracted with ethyl acetate. The resultant extract was washed with brine, dried and concentrated to obtain a residue, to which 100 ml of n-hexane was added. The resultant crystals of triphenylphosphine oxide were separated by filtration and the resultant filtrate was concentrated. The resultant residue was purified through silica gel chromatography to obtain 41.7 g of 4-(trans-4-(2-(3,4-difluorophenyl)ethenyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane. This product was subjected to IR analysis with the results shown below.

reactant | potassium t-butoxide | 12.0 g | CC(C)([O-])C.[K+]
reactant | 3,4-difluorobenzyltriphenylphosphonium bromide | 47.0 g | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1F
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | THF | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde | 35.0 g | C(CCCC)[Si]1(CCC(CC1)C1CCC(CC1)C=O)C1=CC=CC=C1 | C23H36OSi
solvent | n-hexane | 100 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | 4-(trans-4-(2-(3,4-difluorophenyl)ethenyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane | 41.7 g | FC=1C=C(C=CC1F)C=C[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC | C30H40F2Si
